US07625908B2
N-{2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]ethyl}-N-isopropylacetamide
The procedure described in Example 5 was repeated using N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-[2-(isopropylamino)ethoxy]quinazolin-4-amine and acetyl chloride to give the title compound in 49% yield; NMR spectrum (DMSO-d6) 1.19 (d, 6H), 2.07 (s, 3H), 3.77 (t, 2H), 4.06-4.14 (m, 1H), 4.34 (t, 2H), 5.31 (s, 2H), 7.21 (d, 1H), 7.27 (d, 1H), 7.32-7.39 (m, 2H), 7.57-7.63 (m, 2H), 7.69-7.75 (m, 1H), 7.86-7.91 (m, 1H), 8.01 (d, 1H), 8.46 (s, 1H), 8.60 (d, 1H), 10.00 (s, 1H); Mass spectrum MH+ 506.

reactant | N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-[2-(isopropylamino)ethoxy]quinazolin-4-amine | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)OCCNC(C)C | C25H26ClN5O2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-{2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]ethyl}-N-isopropylacetamide | 49% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)OCCN(C(C)=O)C(C)C | C27H28ClN5O3
